US07919504B2
Diethyl 2-(5-(5-((S)-2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethyl)phenyl)propyl-boc-amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)malonate.
Diethyl malonate (2.83 mL, 18.7 mmol) in 30 mL of 1,4-dioxane was added to sodium hydride (0.748 g, 60% dispersion in mineral oil, 18.7 mmol) in 10 mL of 1,4-dioxane at room temperature under nitrogen. The mixture became a clear solution within 5 minutes. The mixture was stirred for another 15 minutes followed by addition of the tert-butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate as described in Schemes 1a and 1b (3.0 g, 4.7 mmol). After overnight stirring, the solvent was removed. The residue was partitioned between EtOAc and saturated NH4Cl. The combined organic portions were washed with brine and dried over sodium sulfate. The crude product was used in the following reaction without purification.

reactant | Diethyl malonate | 18.7 mmol, 2.83 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 18.7 mmol, 0.748 g | [H-].[Na+]
reactant | tert-butyl (S)-1-(5-(3-fluoro-4-nitrophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | FC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H31F4N5O6S
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | Diethyl 2-(5-(5-((S)-2-(tert-butoxycarbonylamino)-3-(4-(trifluoromethyl)phenyl)propyl-boc-amino)-1,3,4-thiadiazol-2-yl)-2-nitrophenyl)malonate | C(C)(C)(C)OC(=O)N[C@H](CN(C1=NN=C(S1)C=1C=CC(=C(C1)C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-])C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C(F)(F)F | C35H42F3N5O10S
